US05914401
A mixture of 4-(3-bromo-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydroquinolin-7-yl)-piperazine-1-carboxylic acid ethyl ester (11.0 g, 25.1 mmol), Cul (5.3 g, 27.6 mmol) and KCN (1.8 g, 27.6 mmol) in 110 mL of 1-methyl-2-pyrrolidinone (NMP) was heated at 200-205° C. for 16 hours. On cooling to room temperature, the reaction mixture was diluted with chloroform (250 ml) upon which a thick precipitate formed. The mixture was filtered over celite (2×) and the clear brown organic filtrate was washed with water/brine (2×), dried (Na2SO4), filtered and concentrated in vacuo to a black oil. An off-white solid precipitated out by addition of hexane (150 ml) and ethyl acetate (300 ml). The solid was dissolved in chloroform, and activated charcoal and celite were added. The mixture was then filtered over celite. Evaporation of the solvent gave a white solid which was suspended in hot ethyl acetate and filtration afforded 9.1 g (94%) of 4-(3-cyano-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydroquinolin-7-yl)-piperazine-1-carboxylic acid ethyl ester as a white solid.

reactant | 4-(3-bromo-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydroquinolin-7-yl)-piperazine-1-carboxylic acid ethyl ester | 25.1 mmol, 11.0 g | C(C)OC(=O)N1CCN(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)Br)=O)F | C19H21BrFN3O3
reactant | KCN | 27.6 mmol, 1.8 g | [C-]#N.[K+]
solvent | 1-methyl-2-pyrrolidinone | 110 mL | CN1C(CCC1)=O | C5H9NO
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-cyano-1-cyclopropyl-6-fluoro-4-oxo-1,4-dihydroquinolin-7-yl)-piperazine-1-carboxylic acid ethyl ester | 9.1 g, 94% | C(C)OC(=O)N1CCN(CC1)C1=C(C=C2C(C(=CN(C2=C1)C1CC1)C#N)=O)F | C20H21FN4O3
